US03957871
A solution of 2.92 grams of N-formyl-α,α-dimethyl-4-(phenylethynyl)-benzylamine in 30 ml. of benzene is placed in a dry flask. The solution is stirred. A solution of 6.6 grams of a 70% "Red-Al" solution in benzene is diluted with 30 ml. of benzene; this solution is added dropwise over approximately 30 minutes to the solution of N-formyl-α,α-dimethyl-4-(phenylethynyl)-benzylamine. The reaction is hydrolyzed with water and is extracted thoroughly with a 1:1 benzene-ether solvent mixture. The combined extracts are dried over magnesium sulfate, filtered, and the solvent is evaporated to give 3.34 gm. of an oil. This oil is dissolved in ether and treated with ethanolic hydrogen chloride. The precipitate is collected and recrystallized from isopropanol to give N,α,α-trimethyl-4-(phenylethynyl)-benzylamine hydrochloride, m.p. 266°-268° C.

reactant | N-formyl-α,α-dimethyl-4-(phenylethynyl)-benzylamine | 2.92 grams | C(=O)NC(C1=CC=C(C=C1)C#CC1=CC=CC=C1)(C)C | C18H17NO
reactant | Red-Al | COCCO[AlH2-]OCCOC.[Na+]
reactant | water | O | H2O
reactant | hydrogen chloride | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | ether | CCOCC | C4H10O
product | N,α,α-trimethyl-4-(phenylethynyl)-benzylamine hydrochloride | Cl.CNC(C1=CC=C(C=C1)C#CC1=CC=CC=C1)(C)C | InChI=1S/C18H19N.ClH/c1-18(2,19-3)17-13-11-16(12-14-17)10-9-15-7-5-4-6-8-15;/h4-8,11-14,19H,1-3H3;1H
